US08754079B2
XV.4 [3-(5-Fluoro-2-nitro-phenoxy)-cyclohexyl]-methyl-carbamic acid tert-butyl ester
Prepared analogously to III.1 from 81 μl 2,4-difluoronitrobenzene and 0.17 g (3-hydroxy-cyclohexyl)-methyl-carbamic acid tert-butyl ester.

reactant | 2,4-difluoronitrobenzene | 81 μl | FC1=C(C=CC(=C1)F)[N+](=O)[O-] | C6H3F2NO2
reactant | (3-hydroxy-cyclohexyl)-methyl-carbamic acid tert-butyl ester | 0.17 g | C(C)(C)(C)OC(N(C)C1CC(CCC1)O)=O | C12H23NO3
product | [3-(5-Fluoro-2-nitro-phenoxy)-cyclohexyl]-methyl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(C)C1CC(CCC1)OC1=C(C=CC(=C1)F)[N+](=O)[O-])=O | C18H25FN2O5
